US05643927
7-(3-Chloropropoxy)-2-methylchromen-4-one
3.9 g (20 mmole) of 7-hydroxy-2-methylchromen-4-one, 4.4 ml (40 mmole) of 1-bromo-3-chloropropane and 6.1 g (40 mmole) of anhydrous potassium carbonate in 100 ml of acetone were mixed and refluxed under heating for 16 hours. The mixture was allowed to cool and the insoluble solid was separated by filtration. The filtrate was evaporated to dryness, and the residue obtained was suspended in ethyl ether, filtered, washed with ether and dried at vaccum to yield 4.76 g (85%) of the product, melting point 113°-115° C.

reactant | 7-hydroxy-2-methylchromen-4-one | 20 mmole, 3.9 g | OC1=CC=C2C(C=C(OC2=C1)C)=O | C10H8O3
reactant | 1-bromo-3-chloropropane | 40 mmole, 4.4 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 40 mmole, 6.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 7-(3-Chloropropoxy)-2-methylchromen-4-one | 4.76 g, 85% | ClCCCOC1=CC=C2C(C=C(OC2=C1)C)=O | C13H13ClO3
